US07211572B2
To a solution of 5-benzyloxy-6-(3-chlorobenzylcarbamoyl)-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridine-3-carboxylic acid (50 mg) in dimethylformamide (0.3 ml) were added triethylamine (0.07 ml) and diphenylphosphoryl azide (0.054 ml). After stirring at room temperature for 1 hr, tert-butanol (0.3 ml) was added, and the mixture was heated to 100° C. and stirred for 1 hr. After cooling to room temperature, saturated aqueous ammonium chloride solution (5 ml) and water (5 ml) were added, and the mixture was extracted twice with ethyl acetate (15 ml each). The ethyl acetate layer was washed with water, dried and concentrated. The obtained-residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:2) to give tert-butyl [5-benzyloxy-6-(3-chlorobenzylcarbamoyl)-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridin-3-yl]carbamate (40 mg).

reactant | 5-benzyloxy-6-(3-chlorobenzylcarbamoyl)-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridine-3-carboxylic acid | 50 mg | C(C1=CC=CC=C1)OC=1C(C(=CN(C1C(NCC1=CC(=CC=C1)Cl)=O)CC(OC)OC)C(=O)O)=O | C25H25ClN2O7
reactant | triethylamine | 0.07 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.054 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
reactant | tert-butanol | 0.3 ml | C(C)(C)(C)O | C4H10O
solvent | dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
product | tert-butyl [5-benzyloxy-6-(3-chlorobenzylcarbamoyl)-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridin-3-yl]carbamate | 40 mg | C(C1=CC=CC=C1)OC=1C(C(=CN(C1C(NCC1=CC(=CC=C1)Cl)=O)CC(OC)OC)NC(OC(C)(C)C)=O)=O | C29H34ClN3O7
